US08114868B2
(R)-6-methyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (R)-3-((S)-1-(4-bromophenyl)propyl)-6-methyl-6-phenyl-1,3-oxazinan-2-one following procedures analogous to those described in Example 32 Method 2 Steps 3 and 4 using 4-iodo-1-methylpyridin-2(1H)-one in Step 4. LC-MS Method 1 tR=1.55 min, m/z=417 (M+1); 1H NMR (CDCl3) 7.41 (1H, d, J=7.03 Hz), 7.33 (2H, d, J=8.20 Hz), 7.29-7.19 (5H, m), 7.10 (1H, d, J=8.20), 6.95 (1H, d=1.76), 6.55 (1H, dd, J=2, 7.03 Hz), 5.51 (1H, q, J=6.49, 9.66 Hz), 3.65 (3H, s), 3.00-2.95 (1H, m), 2.44-2.36 (1H, m), 2.33-2.15 (2H, m), 2.06-1.86 (2H, m), 1.64 (3H, s), 1.02 (3H, t, J=7.32 Hz).

reactant | (R)-3-((S)-1-(4-bromophenyl)propyl)-6-methyl-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](CC)N1C(O[C@](CC1)(C1=CC=CC=C1)C)=O | C20H22BrNO2
reactant | 4-iodo-1-methylpyridin-2(1H)-one | IC1=CC(N(C=C1)C)=O | C6H6INO
product | (R)-6-methyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one | C[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1 | C26H28N2O3
